US05849732
N-benzyloxycarbonyl-4-aminocyclohexanone and aniline were treated in the same manner as described in Reference example 51 to give N-benzyloxycarbonyl-N'-phenyl-1,4-diaminocyclohexane.

reactant | N-benzyloxycarbonyl-4-aminocyclohexanone | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)=O | C14H17NO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | N-benzyloxycarbonyl-N'-phenyl-1,4-diaminocyclohexane | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)NC1=CC=CC=C1 | C20H24N2O2
